US05665754
cis-3-(3-Cyclopentoxy-4-methoxyphenyl)-4-methoxycarbonyl-1-(phenylmethyl)pyrrolidine (1.66 g, 4.1 mmol) was dissolved in 30 mL of 4% HCO2H:methanol. While stirring at room temperature, 10% Pd/C (166 mg) was added in small portions. After 12 hr the reaction was diluted with methanol. Filtration through Celite followed by concentration under reduced pressure yielded a greenish oil residue, which was twice again concentrated from toluene. To this residue in 15 mL of CH2Cl2 at 0° C. was added 4-dimethylaminopyridine (650 mg, 5.33 mmol), followed by di-t-butyl-dicarbonate (1.07 g, 4.92 mmol). The bath was removed, and the mixture was stirred at room temperature. After 45 min the reaction mixture was diluted with CH2Cl2, washed with 1M H3PO4, dried over MgSO4, filtered, and concentrated under reduced pressure. Silica gel chromatography (2:1, hexanes:ethyl acetate) provided cis-3-(3-cyclopentoxy-4-methoxyphenyl)-1-(1,1-dimethylethoxycarbonyl)-4-(methoxycarbonyl)pyrrolidine as a colorless oil (1.1 g, 64%), m.p. 85°-87° C. 1H-NMR (300 MHz): δ 1.50 (s, 9), 3.44 (s, 3), 3.82 (s, 3), 4.72 (bs, 1). Anal. Calcd for C23H33NO6 : C, 65.85; H, 7.93; N, 3.34. Found: C, 65.93; H, 7.95; N, 3.32.

reactant | cis-3-(3-Cyclopentoxy-4-methoxyphenyl)-4-methoxycarbonyl-1-(phenylmethyl)pyrrolidine | 4.1 mmol, 1.66 g | C1(CCCC1)OC=1C=C(C=CC1OC)[C@@H]1CN(C[C@@H]1C(=O)OC)CC1=CC=CC=C1 | C25H31NO4
reactant | di-t-butyl-dicarbonate | 4.92 mmol, 1.07 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | HCO2H | 30 mL | C(=O)O | CH2O2
solvent | methanol | CO | CH4O
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 5.33 mmol, 650 mg | CN(C1=CC=NC=C1)C | C7H10N2
catalyst | Pd/C | 166 mg | [Pd] | Pd
product | cis-3-(3-cyclopentoxy-4-methoxyphenyl)-1-(1,1-dimethylethoxycarbonyl)-4-(methoxycarbonyl)pyrrolidine | 1.1 g, 64% | C1(CCCC1)OC=1C=C(C=CC1OC)[C@@H]1CN(C[C@@H]1C(=O)OC)C(=O)OC(C)(C)C | C23H33NO6
